US07132425B2
A solution of N-(5-bromomethyl-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (95.1 mg, 0.19 mmol) in acetone (1 mL) was cooled to 0° C. and then treated with sodium thiomethoxide (12.9 mg, 0.18 mmol). The reaction stirred at 0° C. for 1.5 h and then was treated with a second aliquot of sodium thiomethoxide (3.6 mg, 0.051 mmol). The reaction was stirred at 0° C. and then slowly warmed to 25° C. over 1.5 h. A third aliquot of sodium thiomethoxide (3–4 mg, 0.042–0.057 mmol) was added, and the reaction mixture was stirred at 25° C. for 1.5 h, at which point, APCI-LRMS indicated the reaction had gone to completion. The reaction was then diluted with ethyl acetate (50 mL), washed with water (2×25 mL) and a saturated aqueous sodium chloride solution (25 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 1/2 ethyl acetate/hexanes) afforded racemized 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(5-methylsulfanylmethyl-pyrazin-2-yl)-propionamide (51.9 mg, 58%) as a white foam: mp 70–75° C. (foam to gel); (ES)+-HRMS m/e calcd for C21H26ClN3O3S2 (M+H)+ 468.1177, found 468.1179.

reactant | N-(5-bromomethyl-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 0.19 mmol, 95.1 mg | BrCC=1N=CC(=NC1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C20H23BrClN3O3S
reactant | sodium thiomethoxide | 0.18 mmol, 12.9 mg | C[S-].[Na+]
reactant | sodium thiomethoxide | 0.051 mmol, 3.6 mg | C[S-].[Na+]
reactant | sodium thiomethoxide | 0.042–0.057 mmol, 3–4 mg | C[S-].[Na+]
solvent | acetone | 1 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(5-methylsulfanylmethyl-pyrazin-2-yl)-propionamide | 51.9 mg, 58% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=C(N=C1)CSC)CC1CCCC1 | C21H26ClN3O3S2
